US05185251
Step D: Preparation of 2-methoxy-5-ethyl-6-methylnicotinaldehyde
To a solution of 2-methoxy-3-cyano-5-ethyl-6-methylpyridine (1.0 g, 5.68 mmol) in dry tetrahydrofuran (50 mL) under a nitrogen atmosphere and cooled to -70° C., was added 1.3M diisobutyl aluminum hydride/THF (17.4 mL, 22.7 mmol). The resulting mixture was allowed to warm to room temperature and stir for 15-20 hours. The reaction mixture was acidified with 1N hydrochloric acid and then neutralized with aqueous sodium bicarbonate. Water was then added and the product extracted into diethyl ether. The etheral extract was dried (Na2SO4), filtered and the solvent evaporated. This residue was flash chromatographed on silica gel eluting with 10% diethyl ether/pentane to give the product.

reactant | 2-methoxy-3-cyano-5-ethyl-6-methylpyridine | 5.68 mmol, 1.0 g | COC1=NC(=C(C=C1C#N)CC)C | C10H12N2O
reactant | diisobutyl aluminum hydride THF | 22.7 mmol, 1.3M, 17.4 mL | [H-].C(C(C)C)[Al+]CC(C)C.C1CCOC1
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-methoxy-5-ethyl-6-methylnicotinaldehyde | COC1=C(C=O)C=C(C(=N1)C)CC | C10H13NO2
